US05650428
The procedure described in Example 125 was repeated, except that ((RS)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-methanesulfonyloxypropanamide (315 mg) was reacted with 3-chlorophenol (113.2 μl) to obtain (RS)-2-(4-bromobenzenesulfonylamino)-3-(3-chlorophenoxy)-N-(4-(ethoxycarbonylmethyl)phenyl) propanamide (214.48 mg).

reactant | (RS)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-methanesulfonyloxypropanamide | 315 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)COS(=O)(=O)C | C20H23BrN2O8S2
reactant | 3-chlorophenol | 113.2 μl | ClC=1C=C(C=CC1)O | C6H5ClO
product | (RS)-2-(4-bromobenzenesulfonylamino)-3-(3-chlorophenoxy)-N-(4-(ethoxycarbonylmethyl)phenyl) propanamide | 214.48 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)COC1=CC(=CC=C1)Cl | C25H24BrClN2O6S
